US07045539B2
Synthetic Method O: Synthesis of 2-(2-cyano-4-hydroxy-phenyl)-5-hydroxy-benzooxazole-7-carbonitrile
To 2-(2-chloro-4-hydroxy-phenyl)-7-iodo-benzooxazol-5-ol (279 mg) in DMF (5 mL) was added CuCN (97 mg). The mixture was placed in an oil bath and heated to 150° C. for 3 h. The mixture was cooled to room temperature and diluted with ethyl acetate and washed with 1N HCl, saturated aqueous EDTA, brine (3×), dried (Na2SO4), and concentrated. Material was purified by preparative LC/MS. MS: 278 (MH+), HPLC tR: 1.92 min. The HPLC conditions used are the following: HPLC Waters Corp. Novapak HR™ C 18 RCM 40×100 mm 6 μm particle; flow rate 40 mL/min, linear gradient from 35% B to 65% B over 15 min; A=water, 0.1% TFA; B=MeOH, UV detection at 254 nm and positive ionization mass spectrometry detection

reactant | 2-(2-chloro-4-hydroxy-phenyl)-7-iodo-benzooxazol-5-ol | 279 mg | ClC1=C(C=CC(=C1)O)C=1OC2=C(N1)C=C(C=C2I)O | C13H7ClINO3
reactant | CuCN | 97 mg | C(#N)[Cu]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-cyano-4-hydroxy-phenyl)-5-hydroxy-benzooxazole-7-carbonitrile | C(#N)C1=C(C=CC(=C1)O)C=1OC2=C(N1)C=C(C=C2C#N)O | C15H7N3O3
